US08022223B2
Step B: Preparation of 1-(3-chloro-2-oxopropyl)pyrrolidin-2-one:
1-(3-Chloro-2-hydroxypropyl)pyrrolidin-2-one (0.380 g, 2.14 mmol) was dissolved in dichloromethane (10 mL) and cooled to 0° C. Dess-Martin periodinane (0.907 g, 2.14 mmol) was added and the mixture agitated at ambient temperature for 2 hours. The mixture was loaded on silica gel chromatographic column and eluted with 1% methanol/dichloromethane to provide the title compound.

reactant | 1-(3-Chloro-2-hydroxypropyl)pyrrolidin-2-one | 2.14 mmol, 0.380 g | ClCC(CN1C(CCC1)=O)O | C7H12ClNO2
reactant | Dess-Martin periodinane | 2.14 mmol, 0.907 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(3-chloro-2-oxopropyl)pyrrolidin-2-one | ClCC(CN1C(CCC1)=O)=O | C7H10ClNO2
